US05977178
N-Methyl-N-((1R)-1-(methylcarbamoyl)-2-(thiophen-2-yl)ethyl)carbamic acid tert-butylester (1.17 g; 3.92 mmol) was dissolved in methylene chloride (4 ml). The reaction was cooled to 0° C. and triflouroacetic acid was added. The mixture was stirred at room temperature for 1.5 hour. Water (30 ml) and solid sodium hydrogencarbonate were added to pH 8. The phases were separated. The aqueous phase was extracted with methylene chloride (4×20 ml). The combined organic phases were dried over magnesium sulfate and the solvent was removed over vacuo to afford 0.70 g of (2R)-N-methyl-2-methylamino-3-(thiophen-2-yl)propionamide.

reactant | N-Methyl-N-((1R)-1-(methylcarbamoyl)-2-(thiophen-2-yl)ethyl)carbamic acid tert-butylester | 3.92 mmol, 1.17 g | C(C)(C)(C)OC(N([C@H](CC=1SC=CC1)C(NC)=O)C)=O | C14H22N2O3S
reactant | triflouroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 30 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (2R)-N-methyl-2-methylamino-3-(thiophen-2-yl)propionamide | 0.70 g | CNC([C@@H](CC=1SC=CC1)NC)=O | C9H14N2OS
